US07557112B2
A mixture of 1-tert-butoxycarbonylpiperidine-4-ol, sodium hydride and DMF was stirred for 5 minutes at room temperature, then 2-chloro-N,N-dimethylethylamine was added to the resultant and further stirred for 30 minutes at room temperature to give 2-[(1-tert-butoxycarbonylpiperidine-4-yl)oxy]-N,N-dimethylethylamine. A mixture of the obtained 2-[(1-tert-butoxycarbonylpiperidine-4-yl)oxy]-N,N-dimethylethylamine and 4M HCl-dioxane solution was stirred for 7 hours at room temperature to give N,N-dimethyl-2-(piperidine-4-yloxy)ethylamine dihydrochloride.

reactant | 1-tert-butoxycarbonylpiperidine-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylethylamine | ClCCN(C)C | C4H10ClN
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(1-tert-butoxycarbonylpiperidine-4-yl)oxy]-N,N-dimethylethylamine | C(C)(C)(C)OC(=O)N1CCC(CC1)OCCN(C)C | C14H28N2O3
